US08686002B2
14.1 (2-Methoxybenzyl)(2-nitrobenzyl)amine
2.0 g (66.17 mmol) 2-nitrobenzaldehyde, 9.08 g (66.17 mmol) 2-methoxybenzylamine and 100 mL triethyl orthoformate in 100 mL dichloromethane were stirred for approx. 24 hours at room temperature. The residue obtained after evaporation was dissolved in 190 mL ethanol and mixed by portions with a total of 5.02 g NaBH4 while stirring at room temperature. After approx. 1 hour, the mixture was poured into water, extracted three times with dichloromethane; the combined organic phases were dried with MgSO4, filtered and concentrated until dry; 18.36 g yellow oil. ESI-MS [M+H+]=273.15.

reactant | 2-nitrobenzaldehyde | 66.17 mmol, 2.0 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | 2-methoxybenzylamine | 66.17 mmol, 9.08 g | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | triethyl orthoformate | 100 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (2-Methoxybenzyl)(2-nitrobenzyl)amine | COC1=C(CNCC2=C(C=CC=C2)[N+](=O)[O-])C=CC=C1 | C15H16N2O3
